US07265120B2
A mixture of 6-(5-amino-6-bromo-3-phenyl-2-pyrazinyl)-2-isopropyl-3(2H)-pyridazinone (150 mg) and allylamine (0.0881 ml) in 1,3-dimethyl-2-imidazolidinone (0.3 ml) was heated at 120-125° C. for 50 hours. After addition of water (3 ml), an aqueous layer was removed by decantation to give a residue. The residue was dissolved in CHCl3, dried over MgSO4 and concentrated under reduced pressure to give syrup. The syrup was crystallized from a mixture of acetone and hexane to give 6-[6-(allylamino)-5-amino-3-phenyl-2-pyrazinyl]-2-isopropyl-3(2H)-pyridazinone (71 mg).

reactant | 6-(5-amino-6-bromo-3-phenyl-2-pyrazinyl)-2-isopropyl-3(2H)-pyridazinone | 150 mg | NC=1N=C(C(=NC1Br)C=1C=CC(N(N1)C(C)C)=O)C1=CC=CC=C1 | C17H16BrN5O
reactant | allylamine | 0.0881 ml | C(C=C)N | C3H7N
reactant | water | 3 ml | O | H2O
solvent | 1,3-dimethyl-2-imidazolidinone | 0.3 ml | CN1C(N(CC1)C)=O | C5H10N2O
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | 6-[6-(allylamino)-5-amino-3-phenyl-2-pyrazinyl]-2-isopropyl-3(2H)-pyridazinone | 71 mg | C(C=C)NC1=C(N=C(C(=N1)C=1C=CC(N(N1)C(C)C)=O)C1=CC=CC=C1)N | C20H22N6O
